US07723527B2
5-Fluoro-4-methyl-2-{6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole
6-[3-(1-Methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-nicotinonitrile. To a stirred solution of 3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propan-1-ol (1.23 g, 7.94 mmol, 1.1 equiv) in DMF (50 mL), under an atmosphere of nitrogen, was added 60% sodium hydride (433 mg, 10.8 mmol, 1.5 equiv) portion wise. Once the initial effervescence had subsided, the mixture was heated at 60° C. for 1 h then cooled to rt. A solution of 6-chloronicotinonitrile (1.0 g, 7.21 mmol, 1.0 equiv) in DMF (5 mL) was then added and the mixture was stirred for 16 h. The reaction was quenched with satd. aq. NaHCO3 (10 mL) and brine (10 mL). The mixture was extracted with chloroform (2×50 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to give a crude residue, which was purified by Method 2 affording 1.43 g (77%) of the title compound. MS (electrospray): mass calculated for C15H19N3O, 257.15; m/z found, 258.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.46 (dd, J=2.4, 0.6 Hz, 1H), 7.76 (dd, J=8.7, 2.4 Hz, 1H), 6.80 (dd, J=8.7, 0.6 Hz, 1H), 5.44-5.39 (m, 1H), 4.35 (t, J=6.6 Hz, 2H), 2.92-2.87 (m, 2H), 2.51 (t, J=5.8 Hz, 2H), 2.34 (s, 3H), 2.18-2.08 (m, 4H), 1.96-1.83 (m, 2H). B. 6-[3-(1-Methyl-1,2,3,6-tetrahydro-Pyridin-4-yl)-propoxy]-pyridine-3-carbaldehyde. To a cooled (0° C.) solution of 6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-nicotinonitrile (1.42 mg, 5.56 mmol, 1.0 equiv) in toluene (40 mL), under an atmosphere of nitrogen, was added 1.0 M diisobutylaluminum hydride in hexanes (8.34 mL, 8.34 mmol, 1.5 equiv). dropwise. The mixture was warmed to rt and stirred for 2 h. Methanol was added (5 mL), followed by 1.0 M H2SO4 (10 mL). After stirring for 30 min, the solution was neutralized with satd. aq. NaHCO3, diluted with satd. aq. sodium potassium tartrate (25 mL), and stirred an additional 30 min or until clear. The mixture was extracted with chloroform (3×50 mL) and the combined extracts were dried (Na2SO4), filtered, and concentrated to afford 1.29 g of the product which was used without purification. 1H NMR (400 MHz, CDCl3): 9.93 (s, 1H), 8.60 (d, J=2.3 Hz, 1H), 8.05 (dd, J=8.7, 2.3 Hz, 1H), 6.81 (d, J=8.7 Hz, 1H), 5.45-5.39 (m, 1H), 4.40 (t, J=6.6 Hz, 2H), 2.92-2.86 (m, 2H), 2.54-2.48 (m, 2H), 2.30 (s, 3H), 2.18-2.09 (m, 4H), 2.98-1.84 (m, 2H). C. 5-Fluoro-4-methyl-2-{6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-Propoxy]-pyridin-3-yl}-1H-benzoimidazole. This compound was prepared by the method described in General Procedure 3 using 6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-pyridine-3-carbaldehyde (100 mg, 0.39 mmol, 1.0 equiv), 4-fluoro-3-methyl-benzene-1,2-diamine (66 mg, 0.39 mmol, 1.0 equiv) and Na2S2O5 (96 mg, 0.51 mmol, 1.3 equiv). Purification by Method 2 afforded 24 mg (16%) of the title compound. MS (electrospray): mass calculated for C22H25FN4O, 380.20; m/z found, 381.4 [M+H]+. 1H NMR (400 MHz, CDCl3): 11.8-10.8 (br s, 1H), 8.86-8.58 (m, 1H), 8.24 (dd, J=8.7, 2.5 Hz, 1H), 7.58-7.36 (m, 0.5H), 7.21-7.03 (m, 0.5H), 6.93 (t, J=9.9 Hz, 1H), 6.73 (d, J=8.7 Hz, 1H), 5.42-5.33 (m, 1H), 4.29 (t, J=6.7 Hz, 2H), 2.92-2.81 (m, 2H), 2.58-2.44 (m, 4H), 2.36-2.26 (m, 4H), 2.18-2.02 (m, 4H), 1.93-1.82 (m, 2H). The following compounds in Examples 122-126 were prepared according to the procedures described in Example 121.

reactant | 6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-pyridine-3-carbaldehyde | 0.39 mmol, 100 mg, 1.0 equiv | CN1CCC(=CC1)CCCOC1=CC=C(C=N1)C=O | C15H20N2O2
reactant | 4-fluoro-3-methyl-benzene-1,2-diamine | 0.39 mmol, 66 mg, 1.0 equiv | FC=1C(=C(C(=CC1)N)N)C | C7H9FN2
product | 5-Fluoro-4-methyl-2-{6-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole | 24 mg, 16% | FC1=C(C2=C(NC(=N2)C=2C=NC(=CC2)OCCCC=2CCN(CC2)C)C=C1)C | C22H25FN4O
